US07851492B2
5-Chloro-2-hydroxyaniline (1 g) was suspended in toluene (50 ml) and treated with 2-trifluoromethylphenylisocyanate (1.2 ml). The reaction was stirred overnight and then filtered. The filter-cake was slurried and filtered twice with 15 ml toluene and washed once more with petrol. Drying at 55° C. gave 1-(5-Chloro-2-hydroxy-phenyl)-3-(2-trifluoromethyl-phenyl)-urea (2.06 g). Mp.=183-184° C. 1-(2-Hydroxy-6-methoxy-pyridin-3-yl)-3-(3-trifluoromethyl-phenyl)-urea (Compound 4):

reactant | 5-Chloro-2-hydroxyaniline | 1 g | ClC=1C=CC(=C(N)C1)O | C6H6ClNO
reactant | 2-trifluoromethylphenylisocyanate | 1.2 ml | FC(C1=C(C=CC=C1)N=C=O)(F)F | C8H4F3NO
solvent | toluene | 50 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(5-Chloro-2-hydroxy-phenyl)-3-(2-trifluoromethyl-phenyl)-urea | 2.06 g | ClC=1C=CC(=C(C1)NC(=O)NC1=C(C=CC=C1)C(F)(F)F)O | C14H10ClF3N2O2
